US04013762
A solution of 150 g of 19-hydroxyandrost-4-en-3-one in 6 liters of ethanol is cooled in an ice bath. To this cold solution is added 13.5 g of potassium borohydride, and the reaction mixture is stirred for two hours at about 0° C after which a second 13.5 g or potassium borohydride is added. Two hours later a third 13.5 g portion of potassium borohydride is added to the reaction mixture which is stirred for an additional one hour then poured into 11 liters of water to which 70 ml of acetic acid is added. The ethanol is distilled off under reduced pressure and the aqueous residue cooled to 0° C. The solid which separates is filtered off, dried and dissolved in 25 liters of hot chloroform after which the temperature is adjusted to 25° C. To the chloroform solution is added 250 g of manganese dioxide, and the mixture is stirred for two hours then filtered and the solvents removed under reduced pressure. The solid residue is recrystallized from acetonitrile to give 17β,19-dihydroxyandrost-4-en-3-one. M.P. 205°-207° C.

reactant | 19-hydroxyandrost-4-en-3-one | 150 g | OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC[C@@]3(C)CC[C@H]21)=O | C19H28O2
reactant | potassium borohydride | 13.5 g | [BH4-].[K+]
reactant | water | 11 liters | O | H2O
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 6 liters | C(C)O | C2H6O
product | 17β,19-dihydroxyandrost-4-en-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(CO)[C@H]1CC2)=O | C19H28O3
